US04675277
To a mixture of 50 ml of acetic anhydride and two drops of sulfuric acid was added 34.5 grams of 4-chloro-2-nitroaniline in several portions. At the end of addition, the solution was heated at 50° C. for one hour and then allowed to cool. 300 ml of cold water was added to the solution to induce precipitation of crystals, which were removed by filtration and washed with water. There were obtained the crystals of 2-acetylamino-5-chloronitrobenzene in a yield of 41.8 grams.

reactant | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-chloro-2-nitroaniline | 34.5 grams | ClC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5ClN2O2
catalyst | sulfuric acid | two drops | S(O)(O)(=O)=O | H2O4S
solvent | water | 300 ml | O | H2O
product | 2-acetylamino-5-chloronitrobenzene | C(C)(=O)NC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C8H7ClN2O3
